US07626042B2
(3) 2-(Morpholinocarbonyl)oxy-5-phenyl-N-[3,5-bis(trifluoromethyl)phenyl]benzamide (Compound No. 81)
Using 2-hydroxy-5-phenyl-N-[3,5-bis(trifluoromethyl)phenyl]benzamide and morpholine-4-carbonyl chloride as the raw materials, the same operation as the Example 71 gave the title compound.

reactant | 2-hydroxy-5-phenyl-N-[3,5-bis(trifluoromethyl)phenyl]benzamide | OC1=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C1=CC=CC=C1 | C21H13F6NO2
reactant | morpholine-4-carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | 2-(Morpholinocarbonyl)oxy-5-phenyl-N-[3,5-bis(trifluoromethyl)phenyl]benzamide | Yield: 91.4% | O1CCN(CC1)C(=O)OC1=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C1=CC=CC=C1 | C26H20F6N2O4
